Ciruito Mallas con R3 dependiente
*--------------------------------
*Fuente
VS	in	0	{param_vin}
*--------------------------------}
*Resistencias
R1	in	out	{param_r1}
R2	out	0	{param_r2}
R3	out	0	{param_r3}
*--------------------------------
*Parameters
.param  param_vin 3 ;user input
.param  param_vout_target 1 ;user input
.param  param_r1	1k ;Fixed value
.param  param_r2 1k ;Fixed value
.param  param_r3 {(param_vout_target*param_r1*param_r2)/(param_vin*param_r2-param_vout_target*param_r1)} ;Automatic calculation
*--------------------------------
*Internal variables
VS2 calc_r3 0 {(param_vout_target*param_r1*param_r2)/(param_vin*param_r2-param_vout_target*param_r1)}
*--------------------------------
*Sweep ->Barrido
*------------------------------------
.step param param_vin 2.00 10 1
*ANALYSIS
*Tran
.Tran 500us
*
*Resultados
* [ltz] removed: .Plot
* [ltz] removed: .PROBE
.END
